US04769472
(3-Bromothien-2-yl) (3-methoxyphenyl)methanone
A solution of phenyllithium (210 ml, 2.1M in cyclohexane) was added dropwise to a solution of 66 g of 3-bromothiophene in 400 ml of anhydrous ether at 5° C. The entire process was conducted under nitrogen. After the addition, the solution was stirred overnight under nitrogen. The resultant solution was then added dropwise to a solution of m-methoxybenzoyl chloride (90 g) in 600 ml of tetrahydrofuran at -70° C. over two hours and thereafter stirring was continued for two hours at the same temperature. The reaction was then quenched with water, the organics were extracted into ether, and the ether phase was washed with 10% sodium hydroxide solution and water, and dried over anhydrous magnesium sulfate. Upon evaporation of the solvent, an oily liquid was obtained which was chromatographed over alumina. Elution with hexane and thereafter with 10%, 20% and 50% ether/hexane gave 89.1 g of an oil which was vacuum distilled.

reactant | phenyllithium | 2.1M, 210 ml | C1(=CC=CC=C1)[Li]
reactant | 3-bromothiophene | 66 g | BrC1=CSC=C1 | C4H3BrS
reactant | m-methoxybenzoyl chloride | 90 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | (3-Bromothien-2-yl) (3-methoxyphenyl)methanone | 89.1 g | BrC1=C(SC=C1)C(=O)C1=CC(=CC=C1)OC | C12H9BrO2S
